// vco_c_tune.scs — standalone Plan C VCO frequency vs VCTRL_I sweep point
// all VAR banks enabled; one (VI,VP) point per run (bake via tools/gen_vco_c_tune.py)
simulator lang=spectre

include "/home/lib/tsmc_12nm_installed/pdk/models/toplevel.scs" section=top_tt
include "vco_c.scs"

parameters VI=0.3 VP=0.6

Vvdd  (VDD 0)  vsource dc=0.8
Vvddc (VDDC 0) vsource type=pulse val0=0 val1=0.5 delay=0 rise=1n width=1m period=1m
Vctrli (VCTRL_I 0) vsource dc=VI
Vctrlp (VCTRL_P 0) vsource dc=VP
Veni0 (ENI0 0) vsource dc=0
Veni1 (ENI1 0) vsource dc=0
Veni2 (ENI2 0) vsource dc=0
Venp0 (ENP0 0) vsource dc=0
Venp1 (ENP1 0) vsource dc=0
Venp2 (ENP2 0) vsource dc=0
Venp3 (ENP3 0) vsource dc=0
Venp4 (ENP4 0) vsource dc=0
Venv2 (EN2 0) vsource dc=0.8

Xvco (VDD VDDC VSS VCTRL_P VCTRL_I OUTP OUTN EN2 \
    ENI0 ENI1 ENI2 ENP0 ENP1 ENP2 ENP3 ENP4) vco_dual_8g_c

tran tran stop=120n maxstep=2p errpreset=liberal method=gear2only skipdc=yes ic="OUTP=0.45" ic="OUTN=0.0"
save OUTP OUTN VCTRL_I VCTRL_P
saveOptions options save=selected
